US07825120B2
The tert-butyl 4-(3-cyano-4-fluorobenzyl)piperazine-1-carboxylate from the previous step (15.0 g, 47.0 mmol, 1.0 equiv.) was dissolved in CH2Cl2 (150 mL), to which TFA (150 mL) was slowly added and the resultant mixture stirred for 10 minutes. CH2Cl2 and TFA were removed by concentration in vacuo. The resulting residue was dissolved in THF (170 mL) and Et3N (Aldrich, redistilled, 16.6 mL, 188.1 mmol, 4.0 equiv.). The reaction vessel was cooled to 0° C. and ethyl chloroformate (Aldrich, 4.7 mL, 49.4 mmol, 1.05 equiv.) was added dropwise via syringe under a nitrogen atmosphere. After 30 minutes the reaction was concentrated under reduced pressure, diluted with EtOAc, washed with sat. aq. NaHCO3 and brine, and dried over Na2SO4. The organic layer was removed in vacuo to yield 5.9 g of ethyl 4-(3-cyano-4-fluorobenzyl)piperazine-1-carboxylate.

reactant | tert-butyl 4-(3-cyano-4-fluorobenzyl)piperazine-1-carboxylate | C(#N)C=1C=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=CC1F | C17H22FN3O2
reactant | Et3N | 188.1 mmol, 16.6 mL, 4.0 equiv. | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 49.4 mmol, 4.7 mL, 1.05 equiv. | ClC(=O)OCC | C3H5ClO2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 150 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | ethyl 4-(3-cyano-4-fluorobenzyl)piperazine-1-carboxylate | 5.9 g | C(#N)C=1C=C(CN2CCN(CC2)C(=O)OCC)C=CC1F | C15H18FN3O2
